US06521643B1
A solution of 2-amino-4-methyl-5-(4-methylpyridin-2-yl)thiazole (300 mg) in N,N-dimethylformamide dimethyl acetal (1.5 ml) was stirred at ambient temperature for 14 hours and evaporated under reduced pressure. The residue was triturated with 2-propanol (1 ml) and diisopropyl ether, and the solid was collected by filtration, washed with diisopropyl ether and dried under reduced pressure to give N,N-dimethyl-N′-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-formamidine (268 mg).

reactant | 2-amino-4-methyl-5-(4-methylpyridin-2-yl)thiazole | 300 mg | NC=1SC(=C(N1)C)C1=NC=CC(=C1)C | C10H11N3S
reactant | N,N-dimethylformamide dimethyl acetal | 1.5 ml | COC(N(C)C)OC | C5H13NO2
product | N,N-dimethyl-N′-(4-methyl-5-(4-methylpyridin-2-yl)thiazol-2-yl)-formamidine | 268 mg | CN(C=NC=1SC(=C(N1)C)C1=NC=CC(=C1)C)C | C13H16N4S
